US08211402B2
A solution of 3-iodobenzoic acid (744 mg, 3.0 mmol), N,N′-disuccinimidyl carbonate (920 mg, 3.6 mmol) and pyridine (0.30 mL) in acetonitrile (30 mL) was stirred at room temperature overnight. Solvent was removed under reduced pressure to give a residue, which was purified utilizing a Biotage SP4 eluting with 10% to 100% EtOAc in hexanes to afford 2,5-dioxopyrrolidin-1-yl 3-iodobenzoate (946 mg, 91%) as a white solid. 1H NMR (400 MHz, CDCl3) δ 8.46 (s, 1H), 8.10 (d, J=7.6, 1H), 8.00 (d, J=8.0 Hz, 1H), 7.26 (t, J=7.8 Hz, 1H), 2.91 (s, 4H); ESMS m/z: 368 (M+Na)+.

reactant | 3-iodobenzoic acid | 3.0 mmol, 744 mg | IC=1C=C(C(=O)O)C=CC1 | C7H5IO2
reactant | N,N′-disuccinimidyl carbonate | 3.6 mmol, 920 mg | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | pyridine | 0.30 mL | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 2,5-dioxopyrrolidin-1-yl 3-iodobenzoate | 946 mg, 91% | IC=1C=C(C(=O)ON2C(CCC2=O)=O)C=CC1 | C11H8INO4
